US04195036
From ethylamine and 1,2,3,3-tetrachloropropene, proceeding as in Example 1, there was obtained N-ethyl-N-(2,3,3-trichloroallyl)-amine with b.p.35 mm =91° C.-92° C.

reactant | ethylamine | C(C)N | C2H7N
reactant | 1,2,3,3-tetrachloropropene | ClC=C(C(Cl)Cl)Cl | C3H2Cl4
product | N-ethyl-N-(2,3,3-trichloroallyl)-amine | C(C)NCC(=C(Cl)Cl)Cl | C5H8Cl3N
